US05969138
(1) Preparation of 1-tert-butoxycarbonyl-4-(2-hydroxyethyl)piperazine
To a solution of 10.00 g of 1-(2-hydroxyethyl)piperazine in 70 mL of dioxane at room temperature was added dropwise a solution of 16.43 g of di-tert-butyl dicarbonate in 30 mL of 1,4-dioxane with stirring. After completion of the reaction, the mixture was concentrated and n-hexane was added to the residue. The solid was collected by filtration and dried to give 14.11 g of the title compound.

reactant | 1-(2-hydroxyethyl)piperazine | 10.00 g | OCCN1CCNCC1 | C6H14N2O
reactant | di-tert-butyl dicarbonate | 16.43 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 1-tert-butoxycarbonyl-4-(2-hydroxyethyl)piperazine | 14.11 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCO | C11H22N2O3
